US08912188B2
To a solution of (S)-methyl 2-bromo-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylate (200 mg, 0.55 mmol) in ethylene glycol dimethyl ether (7 ml) was added 2-methyl-5-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (141 mg, 0.55 mmol), sodium carbonate (116 mg, 1.09 mmol), water (2 mL), and Pd(PPh3)4 (32 mg, 0.03 mmol). The resulting solution was stirred for 3 h at 90° C. and concentrated under vacuum to give a residue, which was purified via silica gel chromatography (2% ethyl acetate in petroleum ether) to afford (S)-methyl 2-(2-methyl-1H-indol-5-yl)-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylate as a light yellow solid (142.1 mg, 62%).

reactant | (S)-methyl 2-bromo-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylate | 0.55 mmol, 200 mg | BrC1=NC2=CC=C(C=C2N=C1N1[C@H](CCCC1)C)C(=O)OC | C16H18BrN3O2
reactant | 2-methyl-5-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 0.55 mmol, 141 mg | CC=1NC2=CC=C(C=C2C1)B1OC(C(O1)(C)C)(C)C | C15H20BNO2
reactant | sodium carbonate | 1.09 mmol, 116 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 2 mL | O | H2O
solvent | ethylene glycol dimethyl ether | 7 ml | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.03 mmol, 32 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-methyl 2-(2-methyl-1H-indol-5-yl)-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylate | 142.1 mg, 62% | CC=1NC2=CC=C(C=C2C1)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCCC1)C)C(=O)OC | C25H26N4O2
